US04129591
An 18.18 g portion of 6-amino-1,3-naphthalenedisulfonic acid is suspended in 200 ml of water and the pH is adjusted to 7.0 giving a solution. A 5.6 g portion of sodium acetate is dissolved in this solution and 8.18 g of 5-nitro-1,3-benzenedicarbonyl dichloride is added. The mixture is stirred for one hour, filtered and the filtrate is treated with activated carbon. The filtrate is reduced to a low volume on a rotary evaporator producing crystals. The crystals are recrystallized from water giving 6,6'-[5-nitro-1,3-phenylenebis(carbonylimino)]bis[1,3-naphthalenedisulfonic acid] tetrasodium salt.

reactant | 6-amino-1,3-naphthalenedisulfonic acid | NC=1C=C2C=C(C=C(C2=CC1)S(=O)(=O)O)S(=O)(=O)O | C10H9NO6S2
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
reactant | 5-nitro-1,3-benzenedicarbonyl dichloride | 8.18 g | [N+](=O)([O-])C=1C=C(C=C(C1)C(=O)Cl)C(=O)Cl | C8H3Cl2NO4
solvent | water | 200 ml | O | H2O
product | 6,6'-[5-nitro-1,3-phenylenebis(carbonylimino)]bis[1,3-naphthalenedisulfonic acid] tetrasodium salt | [Na+].[Na+].[Na+].[Na+].[N+](=O)([O-])C=1C=C(C=C(C1)C(=O)NC=1C=C2C=C(C=C(C2=CC1)S(=O)(=O)[O-])S(=O)(=O)[O-])C(=O)NC=1C=C2C=C(C=C(C2=CC1)S(=O)(=O)[O-])S(=O)(=O)[O-] | InChI=1S/C28H19N3O16S4.4Na/c32-27(29-18-1-3-23-14(6-18)10-21(48(36,37)38)12-25(23)50(42,43)44)16-5-17(9-20(8-16)31(34)35)28(33)30-19-2-4-24-15(7-19)11-22(49(39,40)41)13-26(24)51(45,46)47;;;;/h1-13H,(H,29,32)(H,30,33)(H,36,37,38)(H,39,40,41)(H,42,43,44)(H,45,46,47);;;;/q;4*+1/p-4
